US04880809
To a mixture of 1-(2,3-dimethoxy-6,7-dihydro-5H-benzocyclohepten-8-ylcarbonyl)piperazine (0.8 g), 3,4,5-trimethoxy benzoic acid (0.55 g), triethylamine (0.4 g) and N,N-dimethylformamide (10 ml) is added dropwise diethyl phosphorocyanidate (0.5 g) with stirring under ice-cooling. The reaction mixture is stirred for one hour at room temperature. To the reaction mixture are added water (60 ml) and ethyl acetate (50 ml), followed by shaking. The organic layer is separated, washed with water, dried and concentrated under reduced pressure. The residue is purified by silica gel column chromatography (eluent, ethyl acetate:hexane:acetone=10:5:8) to afford 1-(2,3-dimethoxy-6,7-dihydro-5H-benzocyclohepten-8-ylcarbonyl)-4-(3,4,5-trimethoxybenzoyl)piperazine (1.1 g). This product is in agreement with the compound obtained by Example 62 in physico-chemical constants.

reactant | 1-(2,3-dimethoxy-6,7-dihydro-5H-benzocyclohepten-8-ylcarbonyl)piperazine | 0.8 g | COC=1C(=CC2=C(C=C(CCC2)C(=O)N2CCNCC2)C1)OC | C18H24N2O3
reactant | 3,4,5-trimethoxy benzoic acid | 0.55 g | COC=1C=C(C(=O)O)C=C(C1OC)OC | C10H12O5
reactant | triethylamine | 0.4 g | C(C)N(CC)CC | C6H15N
reactant | diethyl phosphorocyanidate | 0.5 g | P(OCC)(OCC)(=O)C#N | C5H10NO3P
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 60 ml | O | H2O
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 1-(2,3-dimethoxy-6,7-dihydro-5H-benzocyclohepten-8-ylcarbonyl)-4-(3,4,5-trimethoxybenzoyl)piperazine | 1.1 g | COC=1C(=CC2=C(C=C(CCC2)C(=O)N2CCN(CC2)C(C2=CC(=C(C(=C2)OC)OC)OC)=O)C1)OC | C28H34N2O7
